US04956490
A. p-Chlorobenzalpyruvic Acid
Sodium pyruvate (24.2 g, 0.22 moL) was added to a cold (0° C.) solution of 1N sodium hydroxide (200 mL) and ethanol (10 mL). p-Chlorobenzaldehyde (28.11 g, 0.20 moL) was then added, maintaining the temperature below 5° C. The reaction mixture was aged six hours at 0°-5° C. and then allowed to warm to 20° C. where it was aged an additional six hours to effect complete reaction. The mixture was cooled to -10° C. and the pH adjusted to 1.0 with cold 6N HCl. The p-chlorobenzalpyruvic acid product was then extracted with 800 mL ethyl acetate in 94% yield.

reactant | Sodium pyruvate | 24.2 g | C(C(=O)C)(=O)[O-].[Na+]
reactant | sodium hydroxide | 1N, 200 mL | [OH-].[Na+]
reactant | p-Chlorobenzaldehyde | 28.11 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | HCl | 6N | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | p-Chlorobenzalpyruvic Acid | 94% yield | ClC1=CC=C(C=CC(C(=O)O)=O)C=C1 | C10H7ClO3
